US07262212B2
Triphenyl-(4-trifluoromethylbenzyl)-phosphonium bromide (3.00 g, 5.98 mmol) was dissolved in DMSO (50 ml). To the solution, sodium hydride (0.239 g, 5.98 mmol) was added with cooling on ice-bath followed by stirring at room temperature for 1 hour. To the solution, a solution of benzyl 4-formyloxypiperidine-1-carboxylate (1.497 g, 5.69 mmol) in DMSO (10 ml) was added dropwise followed by stirring at 60° C. for 7 hours. The reaction mixture was added water and extracted with ethyl acetate twice. The organic phases were combined, washed with water and a saturated saline solution, dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) and then purified by silica gel column chromatography (methylene chloride/ethyl acetate=9/1) to afford benzyl 4-[2-(4-trifluoromethylphenyl)-vinyloxy]piperidin-1-carboxylate as a colorless oil.

reactant | Triphenyl-(4-trifluoromethylbenzyl)-phosphonium bromide | 5.98 mmol, 3.00 g | [Br-].C1(=CC=CC=C1)[P+](CC1=CC=C(C=C1)C(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 5.98 mmol, 0.239 g | [H-].[Na+]
reactant | benzyl 4-formyloxypiperidine-1-carboxylate | 5.69 mmol, 1.497 g | C(=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
reactant | water | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | benzyl 4-[2-(4-trifluoromethylphenyl)-vinyloxy]piperidin-1-carboxylate | FC(C1=CC=C(C=C1)C=COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C22H22F3NO3
